US07423185B2
Benzyl bromoacetate (0.88 mL) was added to a mixture of 4-bromo-2-isopropylphenol (1.0 g) and potassium carbonate (0.96 g) in N,N-dimethylformamide (5 mL), and the mixture was stirred at room temperature overnight. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: diethyl ether/n-hexane=1/10) to afford benzyl (4-bromo-2-isopropylphenoxy)acetate (1.70 g).

reactant | Benzyl bromoacetate | 0.88 mL | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | 4-bromo-2-isopropylphenol | 1.0 g | BrC1=CC(=C(C=C1)O)C(C)C | C9H11BrO
reactant | potassium carbonate | 0.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl (4-bromo-2-isopropylphenoxy)acetate | 1.70 g | BrC1=CC(=C(OCC(=O)OCC2=CC=CC=C2)C=C1)C(C)C | C18H19BrO3
